US09290517B2
Step A: tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate
A vial was charged with [(3R,3aR,6R,6aS)-3-[1-allyl-5-(4-bromophenyl)-6-chloro-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (508.1 mg, 0.837 mmol), tert-butyl 4,6-dihydro-2H-pyrrolo[3,4-c]pyrazole-5-carboxylate (213.1 mg, 1.018 mmol), tripotassium phosphate (603.1 mg, 2.84 mmol), and copper(I) iodide (33.2 mg, 0.174 mmol). The vial was evacuated and backfilled with nitrogen (3×). Trans-N,N′-dimethylcyclohexane-1,2-diamine (53 μl, 0.335 mmol) and dioxane (1.6 ml) were added to the vial to give a pale blue suspension that was heated at 100° C. with stirring for 24 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (100 ml) and water (100 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a light green residue. Flash chromatography of the residue utilizing an 40 g silica RediSep Rf® column and employing a 0-40% EtOAc/hexane gradient followed by 40% EtOAc/hexane afforded the desired product as a white foam. LC-MS: calculated for C37H47ClN6O6Si 734.3 observed m/e: 735.34 (M+H)+ (Rt 1.47/2 min)

reactant | [(3R,3aR,6R,6aS)-3-[1-allyl-5-(4-bromophenyl)-6-chloro-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.837 mmol, 508.1 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)Br)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C27H33BrClN3O4Si
reactant | tert-butyl 4,6-dihydro-2H-pyrrolo[3,4-c]pyrazole-5-carboxylate | 1.018 mmol, 213.1 mg | N=1NC=C2C1CN(C2)C(=O)OC(C)(C)C | C10H15N3O2
reactant | tripotassium phosphate | 2.84 mmol, 603.1 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.335 mmol, 53 μl | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
catalyst | copper(I) iodide | 0.174 mmol, 33.2 mg | [Cu]I
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 2-[4-[2-[[(3R,3aR,6R,6aS)-6-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]-1-allyl-6-chloro-imidazo[4,5-b]pyridin-5-yl]phenyl]-4,6-dihydropyrrolo[3,4-c]pyrazole-5-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)N1N=C3C(=C1)CN(C3)C(=O)OC(C)(C)C)N2)CC=C | C37H47ClN6O6Si
